US04036979
Preparation of 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea
A sample of 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine (19.9 grams) is cooled in a flask, and a solution of 12 ml. of 12N hydrochloric acid in 50 ml. of water is slowly added. Subsequently, at about 20° C., a solution of 11.7 grams of potassium cyanate in 80 ml. of water is added in 0.5 hour. The mixture is stirred at room temperature for one hour and then warmed to 60° C. and kept at this temperature for 0.5 hour. After standing overnight at room temperature, the product is collected and washed with water to afford 21 grams, melting point 206° C. to 209° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine | 19.9 grams | S1C2=C(C=C1)C(CCC2)N | C8H11NS
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | potassium cyanate | 11.7 grams | [O-]C#N.[K+]
solvent | water | O | H2O
product | 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea | S1C2=C(C=C1)C(CCC2)NC(=O)N | C9H12N2OS
